US03975535
4-Methylisocoumarin-3-carboxylic acid
A mixture of 2-acetylbenzoic acid (6.21g), diethyl bromomalonate (9.0g.) and potassium hydroxide (2.12g.) in ethanol (50ml.) was heated under reflux for 6 hours. The cooled mixture was evaporated to dryness, water (100ml.) added and extracted with ether. The combined ethereal extracts were washed with water, dried and evaporated to dryness. The residue was heated under reflux with a mixture of concentrated hydrochloric acid (160ml.) -- acetic acid (100ml.) for two hours, cooled and poured into iced water (1 litre). Filtration gave the product as a white solid, mp. 250°-2°, (lit mp. 248°-9°) (Found: C, 64.59; H, 4.01. C11H8O4 requires C, 64.70; H, 3.95).

reactant | 2-acetylbenzoic acid | 6.21g | C(C)(=O)C1=C(C(=O)O)C=CC=C1 | C9H8O3
reactant | diethyl bromomalonate | 9.0g | BrC(C(=O)OCC)C(=O)OCC | C7H11BrO4
reactant | potassium hydroxide | 2.12g | [OH-].[K+]
solvent | ethanol | 50ml | C(C)O | C2H6O
product | 4-Methylisocoumarin-3-carboxylic acid | CC1=C(OC(=O)C2=CC=CC=C12)C(=O)O | C11H8O4
